US06017911
A mixture composed of 150 g of (3R*,4S*,5R*)-5-allyl-1-benzyl-3,4-bis(tert-butyldimethylsilyloxy)-2-pyrrolidinone which had been prepared according to the procedure described in J. Org. Chem. 60, 103-108 (1995) by using D-tartaric acid as the starting material, 500 ml of ethanol, and 20 ml of concentrated hydrochloric acid was heated to 50° C. and stirred for 2 days. After the reaction mixture was concentrated under reduced pressure, water was added to the resulting residue. This mixture was washed with n-hexane and then extracted with chloroform. After the extract was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. Then, ether and n-hexane were added to the resulting residue so as to crystallize the desired product. These crystals were collected by filtration to obtain 24.8 g of (3R*,4S*,5R*)-5-allyl-1-benzyl-3,4-dihydroxy-2-pyrrolidinone.

reactant | (3R*,4S*,5R*)-5-allyl-1-benzyl-3,4-bis(tert-butyldimethylsilyloxy)-2-pyrrolidinone | 150 g | C(C=C)[C@@H]1[C@@H]([C@H](C(N1CC1=CC=CC=C1)=O)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C26H45NO3Si2
reactant | D-tartaric acid | C([C@@H](O)[C@H](O)C(=O)O)(=O)O | C4H6O6
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | (3R*,4S*,5R*)-5-allyl-1-benzyl-3,4-dihydroxy-2-pyrrolidinone | 24.8 g | C(C=C)[C@@H]1[C@@H]([C@H](C(N1CC1=CC=CC=C1)=O)O)O | C14H17NO3
